US07544835B2
2-Isopropoxy-3-{4-methoxy-3-[2-({[3-(trifluoromethyl)-anilino]carbonyl}oxy)ethyl]phenyl}propanoic acid
Using ethyl 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]-2-isopropoxypropanoate and α,α,α-trifluoro-m-tolylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | OCCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C17H26O5
reactant | α,α,α-trifluoro-m-tolylisocyanate | FC(C1=CC(=CC=C1)N=C=O)(F)F | C8H4F3NO
product | 2-Isopropoxy-3-{4-methoxy-3-[2-({[3-(trifluoromethyl)-anilino]carbonyl}oxy)ethyl]phenyl}propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=C(C=C1)OC)CCOC(=O)NC1=CC(=CC=C1)C(F)(F)F | C23H26F3NO6
